US07705023B2
1,5-Bis(4-isopropoxyphenyl)-indole-2-carboxylic acid
The title compound was prepared in accordance with Example 1, using 5-bromoindole-2-carboxylic acid ethyl ester, 4-isopropoxyphenylboronic acid and 4-bromo-1-isopropoxybenzene.

reactant | 5-bromoindole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)Br | C11H10BrNO2
reactant | 4-isopropoxyphenylboronic acid | C(C)(C)OC1=CC=C(C=C1)B(O)O | C9H13BO3
reactant | 4-bromo-1-isopropoxybenzene | BrC1=CC=C(C=C1)OC(C)C | C9H11BrO
product | 1,5-Bis(4-isopropoxyphenyl)-indole-2-carboxylic acid | C(C)(C)OC1=CC=C(C=C1)N1C(=CC2=CC(=CC=C12)C1=CC=C(C=C1)OC(C)C)C(=O)O | C27H27NO4
